US08748624B2
STEP A: ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate
Ethyl 3-(5-bromopicolinamido)propanoate, prepared as in Example 1 (100 g, 0.32 mol), Bis(pinacolato)diboron (93.8 g, 0.36 mol), Pd(dppf)Cl2 (13.8 g, 0.02 mol), and KOAc (97.8 g, 0.99 mol) were dissolved in 1,4-dioxane (1 L) and the resulting mixture was heated to 85° C. After 1 h the resulting mixture was cooled to room temperature, diluted with EtOAc and water, filtered through CELITE and the layers were separated. The organic phase was washed with brine, dried (MgSO4), and concentrated. The resulting oil was diluted with DCM and heptane and purified via silica gel column chromatography to yield the title compound.

reactant | Ethyl 3-(5-bromopicolinamido)propanoate | BrC=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C11H13BrN2O3
reactant | Bis(pinacolato)diboron | 0.36 mol, 93.8 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 0.99 mol, 97.8 g | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 1 L | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | Pd(dppf)Cl2 | 0.02 mol, 13.8 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C | C17H25BN2O5
